US03968131
12.5 parts of 1-amino-2-phenoxy-4-hydroxyanthraquinone, 13 parts of 3-methyl-1,5-pentanediol, 25 parts of N-methylpyrrolidone, 3 parts of polyethylene oxide of average molecular weight 300 and 2 parts of anhydrous potassium carbonate are stirred for one hour at 150°C under nitrogen. After working up, 10.5 parts of 1-amino-2-(3'-methyl-5'-hydroxypentanoxy)-4-hydroxyanthraquinone are obtained.

reactant | 1-amino-2-phenoxy-4-hydroxyanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)OC1=CC=CC=C1 | C20H13NO4
reactant | 3-methyl-1,5-pentanediol | CC(CCO)CCO | C6H14O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 1-amino-2-(3'-methyl-5'-hydroxypentanoxy)-4-hydroxyanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)OCCC(CCO)C | C20H21NO5
